US04775674
1,3-Dihydro-7-[3-(phenylsulfonyl)propoxy]-2H-imidazo[4,5-b]quinolin-2-one
1,3-Dihydro-7-[3-[(4-chlorophenyl)sulfonyl]propoxy]-2H-imidazo[4,5-b]quinolin-2-one was analogously prepared from 5-[[2-nitro-5-[3-[(4-chlorophenyl)sulfonyl]propoxy]phenyl]methylene]-2,4-imidazolidinedione.

reactant | 1,3-Dihydro-7-[3-[(4-chlorophenyl)sulfonyl]propoxy]-2H-imidazo[4,5-b]quinolin-2-one | ClC1=CC=C(C=C1)S(=O)(=O)CCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O | C19H16ClN3O4S
reactant | 5-[[2-nitro-5-[3-[(4-chlorophenyl)sulfonyl]propoxy]phenyl]methylene]-2,4-imidazolidinedione | [N+](=O)([O-])C1=C(C=C(C=C1)OCCCS(=O)(=O)C1=CC=C(C=C1)Cl)C=C1C(NC(N1)=O)=O | C19H16ClN3O7S
product | 1,3-Dihydro-7-[3-(phenylsulfonyl)propoxy]-2H-imidazo[4,5-b]quinolin-2-one | C1(=CC=CC=C1)S(=O)(=O)CCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O | C19H17N3O4S
